US07612060B2
Step (iii): Synthesis of (R)-2-(prop-2-ynyl)-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one
A suspension of (R)-methyl 2-(2-nitropyridin-3-ylamino)pent-4-ynoate (220 mg, 0.883 mmol), iron (296 mg, 5.30 mmol) and NH4Cl in 10 mL of MeOH was heated to reflux for 4 h. After cooling to room temperature, 0.5 mL of NEt3 was added and the solution was stirred overnight. The solvent was evaporated and the residue was redissolved with EtOAc and filtered through a pad of silica gel. The filtrate was evaporated to dryness the title compound that was used directly in the next step.

reactant | (R)-methyl 2-(2-nitropyridin-3-ylamino)pent-4-ynoate | 0.883 mmol, 220 mg | [N+](=O)([O-])C1=NC=CC=C1N[C@@H](C(=O)OC)CC#C | C11H11N3O4
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NEt3 | 0.5 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 10 mL | CO | CH4O
catalyst | iron | 5.30 mmol, 296 mg | [Fe] | Fe
product | (R)-2-(prop-2-ynyl)-1,2-dihydropyrido[2,3-b]pyrazin-3(4H)-one | C(C#C)[C@H]1NC2=C(NC1=O)N=CC=C2 | C10H9N3O
